US04035495
4,4-Dimethyl-4H-pyrrolo[2,1-c][1,4]benzoxazine (5; R1 = H, R3 and R9 = CH3 and X = 0)
p-Toluenesulfonic acid monohydrate (110 mg) is dissolved in 70 ml of dry benzene and the solution heated at reflux with a water-separator for about 10 minutes. A solution of 1-(o-hydroxyphenyl)-pyrrole (1.1 g) in dry benzene (80 ml) is added, followed by 10 ml of acetone. The reaction mixture is heated at reflux with the water-separator for 15 hr, cooled, and washed with a solution of NaHCO3. The benzene solution is evaporated to dryness. The residue is subjected to chromatography on silica gel, using chloroform as eluent. Evaporation of the first portion of the eluate gives the title compound, m.p. 38° - '° C, νmaxCHCl3 1600, 1510, 1345 cm-1.

reactant | p-Toluenesulfonic acid monohydrate | 110 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
reactant | 1-(o-hydroxyphenyl)-pyrrole | 1.1 g | OC1=C(C=CC=C1)N1C=CC=C1 | C10H9NO
reactant | acetone | 10 ml | CC(=O)C | C3H6O
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 4,4-Dimethyl-4H-pyrrolo[2,1-c][1,4]benzoxazine | CC1(OC2=C(N3C1=CC=C3)C=CC=C2)C | C13H13NO
